US07691882B2
3-(3-(4-(6-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a solution of 3-ethynyl-pyridin-2,6-diamine (300 mg, 2.25 mmol) described in Manufacturing Example 13-1-3 in anhydrous tetrahydrofuran (30 mL) was added (4-(6-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (1.50 g, 5.16 mmol) described in Manufacturing Example 3-1-5 under nitrogen atmosphere at room temperature. Triethylamine (1.25 mL, 9.00 mmol) was then added dropwise at room temperature, and stirred for 1.5 hours at room temperature. Water and ethyl acetate were added to the reaction mixture at room temperature, and the organic layer was separated. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (637 mg, 73%).

reactant | 3-ethynyl-pyridin-2,6-diamine | 2.25 mmol, 300 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | (4-(6-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 5.16 mmol, 1.50 g | CC1=CC=CC(=N1)OCC1=CC=C(C=C1)CC(=NO)Cl | C15H15ClN2O2
reactant | Triethylamine | 9.00 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-(4-(6-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 637 mg, 73% | CC1=CC=CC(=N1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H21N5O2
